US06358949B1
A solution of 350 mg (0.67 mmole) of (2-chloro-3,4-dimethoxyphenyl)-N-({l-[(2-hydroxyphenyl)methyl] benzimidazol-2-yl}methyl)-N-(3-methylbutyl) carboxamide and 278 mg (2.01 mmole) of K2CO3 in 2 mL of anhydrous N,N-dimethylformamide is treated with 79.1 μL (0.737 mmole) 1-chloro-3-iodo propane at room temperature for 19 hr. The resulting solution is diluted with 60 mL of ethyl acetate, washed with 3×20 mL water and 1×20 mL of brine, dried over anhydrous Na2SO4 and the solvent is removed in vacuo to afford 400 mg (99%) of (2-chloro-3,4-dimethoxyphenyl)-N-[(1-{[2-(3-chloropropoxy)phenyl]methyl}benzimidazol-2-yl)methyl]-N-(3-methylbutyl) carboxamide.

reactant | (2-chloro-3,4-dimethoxyphenyl)-N-({l-[(2-hydroxyphenyl)methyl] benzimidazol-2-yl}methyl)-N-(3-methylbutyl) carboxamide | 0.67 mmole, 350 mg | ClC1=C(C=CC(=C1OC)OC)C(=O)N(CCC(C)C)CC1=NC2=C(N1CC1=C(C=CC=C1)O)C=CC=C2 | C29H32ClN3O4
reactant | K2CO3 | 2.01 mmole, 278 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-3-iodo propane | 0.737 mmole, 79.1 μL | ClCCCI | C3H6ClI
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (2-chloro-3,4-dimethoxyphenyl)-N-[(1-{[2-(3-chloropropoxy)phenyl]methyl}benzimidazol-2-yl)methyl]-N-(3-methylbutyl) carboxamide | 400 mg, 99% | ClC1=C(C=CC(=C1OC)OC)C(=O)N(CCC(C)C)CC1=NC2=C(N1CC1=C(C=CC=C1)OCCCCl)C=CC=C2 | C32H37Cl2N3O4
